US06008237
A solution of hydroquinone (33.00 g, 0.30 mol) and potassium carbonate (45.6 g, 0.33 mol) in dry DMF (250 mL) was stirred at 40° C. for minutes. Allyl bromide (5.20 mL, 0.06 mol) was added and the reaction was stirred overnight. The reaction mixture was partitioned between ethyl acetate and 0.2N HCl. The organic layer was washed twice with water, then dried over sodium sulfate. The organic layer was filtered and evaporated to an oil which was chromatographed over silica gel with hexane/ethyl acetate (4:1) to afford 4-allyloxyphenol.

reactant | hydroquinone | 0.30 mol, 33.00 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 0.33 mol, 45.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Allyl bromide | 0.06 mol, 5.20 mL | C(C=C)Br | C3H5Br
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 4-allyloxyphenol | C(C=C)OC1=CC=C(C=C1)O | C9H10O2
